US07199125B2
(6R,7aS)-7a-(4-bromobenzyl)-2-(3,5-dichlorophenyl)-6-hydroxytetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3(2H)-dione
To a solution of methyl (4R)-2-(4-bromobenzyl)-4-hydroxy-L-prolinate (0.170 g) (Prep. 3) in 10 mL of DMF was added K2CO3 (0.15 g). The reaction mixture was cooled to 0° C., treated with 3,5-dichlorophenyl isocyanate (0.116 g), then allowed to warm to RT and stirred overnight. The insoluble material was removed by filtration, the DMF evaporated, and the residue dissolved in DCM. The organic layer was washed with water, dried over MgSO4, and evaporated under reduced pressure. The resulting oily residue was purified over SiO2 isolute column (10 g) (eluent: DCM/acetone-95/5) to afford the above-titled compound (0.100 g) as a white solid. 1H NMR (CDCl3): 7.45 (2H,d), 7.30 (1H,m), 7.10 (2H,d), 6.85 (2H,d), 4.75 (1H,m), 4.10 (1H,dd), 3.45 (1H,d), 3.40 (1H,dd), 3.25 (1H,d), 2.35 (1H, dd), 2.20 (1H,dd).

reactant | methyl (4R)-2-(4-bromobenzyl)-4-hydroxy-L-prolinate | 0.170 g | BrC1=CC=C(C[C@@]2(NC[C@@H](C2)O)C(=O)OC)C=C1 | C13H16BrNO3
reactant | K2CO3 | 0.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dichlorophenyl isocyanate | 0.116 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (6R,7aS)-7a-(4-bromobenzyl)-2-(3,5-dichlorophenyl)-6-hydroxytetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3(2H)-dione | 0.100 g | BrC1=CC=C(C[C@@]23N(C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C[C@@H](C3)O)C=C1 | C19H15BrCl2N2O3
